US06252076B1
(1) Preparation of (R)-(+)-N-(2-bromoethyl)-α-methylbenzylamine Hydrobromide
76.61 g (630 mmole) of (R)-(+)-α-methylbenzylamine was dissolved in 77 ml of dichloromethane and 94.8 g (760 mmole) of 2-bromoethanol was added thereto. This mixture was stirred at 51° C. for 50 hours to complete the reaction. The reaction solution was concentrated under reduced pressure and 286.4 ml (2500 mmole) of 48% aqueous hydrobromic acid solution was added thereto and then allowed to react at 126° C. for 30 minutes under refluxing. The reaction solution was then distilled for 2 hours under normal pressure at constant temperature and 250 ml of aqueous hydrobromic acid and water, the reaction by-product, was removed. The residue was dissolved in 350 ml of isopropyl alcohol with refluxing for 30 minutes, and this solution was cooled to 10.C and then allowed to stand for 3 hours. The resulting solid product was filtered, washed with 50 ml of ethyl acetate, and then dried to obtain 127.5 g of the title compound.

reactant | (R)-(+)-α-methylbenzylamine | 630 mmole, 76.61 g | C[C@H](C1=CC=CC=C1)N | C8H11N
reactant | 2-bromoethanol | 760 mmole, 94.8 g | BrCCO | C2H5BrO
reactant | hydrobromic acid | 2500 mmole, 286.4 ml | Br | BrH
solvent | dichloromethane | 77 ml | ClCCl | CH2Cl2
product | (R)-(+)-N-(2-bromoethyl)-α-methylbenzylamine Hydrobromide | 127.5 g, Yield: 65.5% | Br.BrCCN[C@@H](C1=CC=CC=C1)C | InChI=1S/C10H14BrN.BrH/c1-9(12-8-7-11)10-5-3-2-4-6-10;/h2-6,9,12H,7-8H2,1H3;1H/t9-;/m1./s1
